US06951906B1
Both 10 mmol (2.2 g) of monocyclopentadienyl titanium chloride(CpTiCl3) and 100 ml of toluene were added to a 200 ml Schlenk reactor in the atmosphere of inert gas. Then, 10 mmol of 2,6-di-t-butyl 4-methoxy phenoxy lithium, so obtained from the reaction between 2,6-di-t-butyl 4-methoxy phenol and n-butyl lithium, was slowly added to the mixture. The reactional solution was stirred at room temperature and stood for 1 hour. After 1 hour, some mixture was collected and was analyzed by 1H-NMR spectroscopy to ascertain the reaction results.

reactant | 2,6-di-t-butyl 4-methoxy phenol | C(C)(C)(C)C1=C(C(=CC(=C1)OC)C(C)(C)C)O | C15H24O2
reactant | n-butyl lithium | C(CCC)[Li]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-di-t-butyl 4-methoxy phenoxy lithium | 10 mmol, Yield: 95% | C(C)(C)(C)C1=C(O[Li])C(=CC(=C1)OC)C(C)(C)C | InChI=1S/C15H24O2.Li/c1-14(2,3)11-8-10(17-7)9-12(13(11)16)15(4,5)6;/h8-9,16H,1-7H3;/q;+1/p-1
